US09062056B2
(R)-3-(6-Methyl-3-nitro-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester
To a solution of 2-chloro-3-nitro-6-picoline (200 mg, 1.16 mmol) in DMF (3 mL) were added (R)-3-amino-3-phenylpropanoic acid ethyl ester hydrochloride (319 mg, 1.39 mmol) and DIPEA (0.5 mL, 2.90 mmol). The reaction mixture was stirred at 70° C. for 12 hours. The reaction mixture was then diluted with ethyl acetate and washed with water (×4). The organic phase was then dried over Na2SO4 and concentrated to afford 398 mg (100%) of the title compound as orange oil. The resulting residue was used for the next reaction without further purification. LCMS, M++1, m/z: 330.29.

reactant | 2-chloro-3-nitro-6-picoline | 1.16 mmol, 200 mg | ClC1=NC(=CC=C1[N+](=O)[O-])C | C6H5ClN2O2
reactant | (R)-3-amino-3-phenylpropanoic acid ethyl ester hydrochloride | 1.39 mmol, 319 mg | Cl.C(C)OC(C[C@H](C1=CC=CC=C1)N)=O
reactant | DIPEA | 2.90 mmol, 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-3-(6-Methyl-3-nitro-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester | 398 mg, 100% | C(C)OC(C[C@H](C1=CC=CC=C1)NC1=NC(=CC=C1[N+](=O)[O-])C)=O | C17H19N3O4
